### PR TITLE
(feat) stringify to "ergo" syntax

### PR DESCRIPTION
**Pull request by kach**
```javascript
ergo$ define concept Bear {name: String, age: Integer}

ergo$ define constant pooh = Bear {name: "Winnie", age: 4}

ergo$ return pooh;
Response. ~org.accordproject.ergotop.Bear {name: "Winnie", age: 4}
  :  {emit: Unit[], response: ~org.accordproject.ergotop.Bear, state: Unit}?
```

### CODE REVIEW

**Comment by kach** [comment]
@jeromesimeon

File: mechanization/Common/Utils/EData.v [hunk 1]
```diff
@@ -32,17 +33,56 @@ Section EData.
     | _ => None
     end.
 
+  Fixpoint string_of_data (d : ergo_data) : string :=
+    let jsonify := ErgoData.data_to_json_string fmt_dq in
+    let string_of_rec : list (string * ergo_data) -> string :=
+        fun rec =>
```
Comment (jeromesimeon) [inline mechanization/Common/Utils/EData.v]: Might want to try String.concat !
```coq
Lemma concat_test : String.concat ", " ("a"::"b"::"c"::nil) = "a, b, c".
Proof.
  reflexivity.
Qed.
```

File: mechanization/Common/Utils/EData.v [hunk 2]
```diff
@@ -32,17 +33,56 @@ Section EData.
...
+      "["%string
+         ++ (fold_left
+               (fun sofar next =>
+                  (sofar
+                     ++ (if string_dec sofar "" then "" else ", ")
+                     ++ (string_of_data next))%string)
+               arr ""%string)
+         ++ "]"%string
+    | dleft s => "some("%string ++ (string_of_data s) ++ ")"%string
+    | dright _ => "none"
```
Comment (jeromesimeon) [inline mechanization/Common/Utils/EData.v]: If so maybe fix ErgoLexer.mll (`nil` -> `none`) as well?

Comment (jeromesimeon) [reply mechanization/Common/Utils/EData.v]: See #321

Comment (kach) [reply mechanization/Common/Utils/EData.v]: No, nil is currently unit. #321 needs to be fixed properly on its own.

File: mechanization/Common/Utils/EData.v (hunk 1 above)
Comment (kach) [reply mechanization/Common/Utils/EData.v]: okay, okay 72886c3

**Comment by kach** [comment]
@jeromesimeon  travis is being wonky again, can we just disable that particular test?
